US07943607B2
3-[(1S)-2-Hydroxy-1-methylethoxy]-5-[(4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide
10% Palladium on carbon (30 mg) and triethylamine (2.0 mL) were added to a solution of 3-[(9-chloro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide (160 mg; 0.32 mmol) in dry THF (4 mL) and dry ethanol (4 mL) under argon. The reaction was degassed and placed under a hydrogen balloon and stirred for 24 hours at RT. The mixture was filtered through diatomaceous earth and the filtrate was evaporated. Purification by column chromatography on silica, eluting with 0-5% methanol in DCM, yielded a colourless oil which solidified under vacuum to give the title compound as a white foam (62 mg, 33%). 1H NMR δ (CDCl3): 1.23 (d, 3H), 2.00 (dd, 1H), 3.14 (s, 3H), 3.51 (t, 2H), 3.64-3.71 (m, 2H), 3.73 (s, 3H), 4.34 (t, 2H), 4.46 (dq, 1H), 6.51 (d, 1H), 6.69 (d, 1H), 6.70-6.72 (m, 2H), 7.02 (t, 1H), 7.18 (t, 1H), 7.21 (d, 1H), 7.81 (d, 1H), 8.38 (s, 1H) m/z 467 (M+H)+ 465 (M−H)−

reactant | triethylamine | 2.0 mL | C(C)N(CC)CC | C6H15N
reactant | 3-[(9-chloro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.32 mmol, 160 mg | ClC1=C(C=CC=2C(N(CCOC21)C)=O)OC=2C=C(C(=O)NC1=NN(C=C1)C)C=C(C2)O[C@H](CO)C | C24H25ClN4O6
catalyst | Palladium on carbon | 30 mg | [Pd] | Pd
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 3-[(1S)-2-Hydroxy-1-methylethoxy]-5-[(4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 62 mg, 33% | OC[C@@H](OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OC1=CC2=C(C(N(CCO2)C)=O)C=C1)C | C24H26N4O6
